US06168838A
9-Fluoro-2,7-dihexyloxyphenanthrene
From 9-fluoro-2,7-dihexyloxy-9,10-dihydrophenanthrene by dehydrogenation with DDQ in toluene.

reactant | 9-fluoro-2,7-dihexyloxy-9,10-dihydrophenanthrene | FC1C2=CC(=CC=C2C=2C=CC(=CC2C1)OCCCCCC)OCCCCCC | C26H35FO2
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-Fluoro-2,7-dihexyloxyphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)OCCCCCC)OCCCCCC | C26H33FO2
